US07482340B2
3-(2-Phenylchroman-6-yloxy)pyridine
2-Phenylchroman-6-ol (598 mg), 3-bromopyridine (500 mg), potassium hydroxide (322 mg) and potassium iodide were placed in a flask with dry DMSO (10 ml). The reaction mixture was stirred at 120° C. for 3.5 hours. After cooling to room temperature 1M HCl-solution was added and the mixture was extracted wit dichloromethane. The combined organig extracts were washed with 1 M HCl-solution, then with water and brine and dried. 3-(2-Phenylchroman-6-yloxy)pyridine was purified by column chromatography using heptane-ethyl acetate as an eluant. 1H NMR (400 MHz, d6-CDCl3+MeOH) δ: 8.31 (s, 1H), 8.24 (dd, 1H, J 3.8, 1.9 Hz), 7.45-7.25 (m, 7H), 6.87 (d, 1H, J 8.6 Hz), 6.83 (dd, 1H, J 8.6, 2.6 Hz), 6.81 (d, 1H, J 2.6 Hz), 5.07 (dd, 1H, J 10.1, 2.3 Hz), 2.98 (m, 1H), 2.78 (m, 1H), 2.23 (m, 1H), 2.12 (m, 1H).

reactant | 2-Phenylchroman-6-ol | 598 mg | C1(=CC=CC=C1)C1OC2=CC=C(C=C2CC1)O | C15H14O2
reactant | 3-bromopyridine | 500 mg | BrC=1C=NC=CC1 | C5H4BrN
reactant | potassium hydroxide | 322 mg | [OH-].[K+]
reactant | potassium iodide | [I-].[K+]
reactant | HCl | 1M | Cl | ClH
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
product | 3-(2-Phenylchroman-6-yloxy)pyridine | C1(=CC=CC=C1)C1OC2=CC=C(C=C2CC1)OC=1C=NC=CC1 | C20H17NO2
